US07642380B2
(4) Synthesis of chrysene-2,8-diol
Under an argon gas flow, 24 g (0.083 mol) of 2,8-dimethoxychrysene and 2 L of methylene chloride were charged into a 3 L glass flask equipped with a condenser, and cooled to −60° C. Successively, 4.1 g (0.17 mol) of boron tribromide was slowly dropped into the flask, and then the contents of the flask were stirred at room temperature for 18 h. After completion of the reaction, 1 L of water was added to the flask to separate an organic layer from the reaction solution. The resultant crude crystal was short-passed through silica gel (using THF (tetrahydrofuran) as a developing solvent). The obtained product was concentrated under reduced pressure, and the resultant crude product (25 g) was directly used in the subsequent reaction.

reactant | 2,8-dimethoxychrysene | 0.083 mol, 24 g | COC1=CC=2C=CC3=C4C=CC(=CC4=CC=C3C2C=C1)OC | C20H16O2
reactant | methylene chloride | 2 L | C(Cl)Cl | CH2Cl2
reactant | boron tribromide | 0.17 mol, 4.1 g | B(Br)(Br)Br | BBr3
solvent | water | 1 L | O | H2O
product | chrysene-2,8-diol | C1=C(C=CC=2C3=CC=C4C=C(C=CC4=C3C=CC12)O)O | C18H12O2
